US06759417B2
4-Amino-3-{5-[3-(dimethylamino)pyrrolidin-1-yl]-1H-benzimidazol-2-yl}-1,5-naphthyridin-2(1H)-one
LiHMDS (3.6 eq) was added to ethyl {5-[3-(dimethylamino)pyrrolidin-1-yl]-1H-benzimidazol-2-yl}acetate (1.0 eq) and 3-aminopyridine-2-carbonitrile (J. Org. Chem. 1958, 1616-1617; 1.0 eq) in THF at 0° C. The reaction was stirred overnight and then heated at 40° C. for 3 hours. The resulting mixture was quenched with an aqueous saturated NH4Cl solution and extracted with EtOAc. The combined organic layers were washed with H2O and brine, dried over Na2SO4, filtered, and concentrated in vacuo to yield a green solid. The crude material was washed successively with CH2Cl2 and MeOH, and then was purified by reverse phase HPLC to provide the desired product. LC/MS m/z 390.2 (MH+), Rt 1.79 minutes.

reactant | LiHMDS | 3.6 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl {5-[3-(dimethylamino)pyrrolidin-1-yl]-1H-benzimidazol-2-yl}acetate | 1.0 eq | CN(C1CN(CC1)C1=CC2=C(NC(=N2)CC(=O)OCC)C=C1)C | C17H24N4O2
reactant | 3-aminopyridine-2-carbonitrile | 1.0 eq | NC=1C(=NC=CC1)C#N | C6H5N3
solvent | THF | C1CCOC1 | C4H8O
product | 4-Amino-3-{5-[3-(dimethylamino)pyrrolidin-1-yl]-1H-benzimidazol-2-yl}-1,5-naphthyridin-2(1H)-one | NC1=C(C(NC2=CC=CN=C12)=O)C1=NC2=C(N1)C=CC(=C2)N2CC(CC2)N(C)C | C21H23N7O
